Name:  ___              Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Hematuria, weakness
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o female with h/o PE (on lovenox), bladder cancer s/p  
Robotic TAH-BSO, lap radical cystectomy with ileal loop 
diversion and anterior vaginectomy in ___ c/b abdominal 
fluid requiring placement of drainage catheters. Recent 
abdominal imaging noted worsening of her bilateral severe 
hydronephrosis and her Cr was noted to have risen from 0.8 to 
1.3(outside lab value). Patient recently underwent bilateral 
nephrostomy tube placement by ___ on ___.

She first started feeling weak during ___ yesterday doing the 
exercises. Had palpitations with ambulation. Has tightness in 
chest with ambulating since yesterday. Felt light headed with 
ambulation. SNF noticed increased hematuria with R bag darker 
than L bag since yesterday. Her Urostomy (placed in ___ 
also positive for hematuria. She was transferred to ___ ED for 
further management.

In the ED, initial vitals were:  

Temp. 98.1, HR 72, BP 139/56, RR 16, 99% RA
  
- Labs notable for:  
WBC 5.9, Hg 8.1, platelets 374. Na 140, K 4.3, Cl 103, biacrb 
22, BUN 29, Cr 1.0

UA from bilateral nephrostomy tubes with > 100 WBC, moderate 
leukocytes, and large blood.

- Imaging was notable for: 
CT abd/pelvis w/o contrast:
Interval placement of bilateral percutaneous nephroureterostomy 
tubes with resolved hydroureteronephrosis. No RP hematoma.
 
- Patient was given:  
LR

Upon arrival to the floor, patient reports that she noticed 
shortness of breath today with walking in conjunction with 
bloody output from her ostomy tubes. She notes that the output 
from her nephrostomy tubes was pink tinged when she left the 
hospital 2 days ago. She also endorses associated chest 
tightness but no pain or pressure. She denies cough, fever, 
chills, abdominal pain, or diarrhea. She notes that she has an 
ostomy and nephroureterostomy without sensation of dysuria. 
Patient notes feeling dizzy and lightheaded previously though is 
currently asymptomatic. 

 
Past Medical History:
- Hypertension  
 - s/p lap chole  
 - s/p left knee replacement  
 - s/p laminectomy of L5-S1 at age ___  
 - Bladder Cancer high grade TCC, T1 diagnosed in ___, then 
___ pelvic MRI w/invasion into bladder wall, perivesical 
soft tissue and anterior vaginal wall c/w T4 staging  
 - s/p hysterectomy and bilateral oophorectomy for large uterus 
w/fibroid, s/p laparascopic b/l pelvic lymph node resection, s/p 
radical cystectomy and anterior vaginectomy with vaginal 
reconstruction with ileal conduit creation ___, course 
complicated by bacteremia and development of intra-abdominal 
fluid collection, no s/p drain placement by ___ ___  
 - h/o LLE DVT and PE on lovenox  

 
Social History:
___
Family History:
Negative for bladder CA.

 
Physical Exam:
=========================
ADMISSION PHYSICAL EXAM: 
========================= 
VITAL SIGNS: Temp. 98.1 PO BP 158 / 66 HR 72 RR 18 Spo2 95 RA 
GENERAL: well-appearing elderly woman in no acute distress 
CARDIAC: RRR, no murmurs
LUNGS: clear to auscultation bilaterally 
ABDOMEN: soft, non-tender to palpation, normal bowel sounds. 
Ostomy draining brown stool. Nephroureterostomy draining dark 
red bloody urine. Bilateral nephrostomy tubes draining blood 
urine. 
EXTREMITIES: No edema, warm and well-perfused.

=========================
DISCHARGE PHYSICAL EXAM: 
========================= 
VS -  98.3 PO 139/67 71 18 94 RA 
GENERAL: well-appearing elderly woman in no acute distress 
CARDIAC: RRR, no murmurs
LUNGS: clear to auscultation bilaterally 
ABDOMEN: soft, non-tender to palpation, normal bowel sounds.  
Nephroureterostomy draining dark red bloody urine. Bilateral 
nephrostomy tubes capped. 
EXTREMITIES: No edema, warm and well-perfused

 
Pertinent Results:
================
ADMISSION LABS
================
___ 05:20PM BLOOD WBC-5.9 RBC-2.90* Hgb-8.1* Hct-26.6* 
MCV-92 MCH-27.9 MCHC-30.5* RDW-15.4 RDWSD-51.2* Plt ___
___ 05:48AM BLOOD WBC-4.6 RBC-2.46* Hgb-7.0* Hct-22.6* 
MCV-92 MCH-28.5 MCHC-31.0* RDW-15.3 RDWSD-51.7* Plt ___
___ 05:20PM BLOOD Neuts-56.3 ___ Monos-12.6 Eos-1.5 
Baso-0.3 Im ___ AbsNeut-3.29# AbsLymp-1.69 AbsMono-0.74 
AbsEos-0.09 AbsBaso-0.02
___ 05:20PM BLOOD Glucose-101* UreaN-29* Creat-1.0 Na-140 
K-4.3 Cl-103 HCO3-22 AnGap-19

=================
IMAGING/STUDIES
=================

___ CT Abd/Pel w/o Contrast: 
IMPRESSION:   
1. Interval placement of bilateral percutaneous 
nephroureterostomy tubes with resolved hydroureteronephrosis.  
No RP hematoma. 
2. Partially imaged nodular opacity in the right middle lobe 
which can be 
further assessed on a nonemergent dedicated CT chest. 

___ CXR
AP portable upright view of the chest.   Right upper extremity 
access PICC 
line is seen with its tip in the upper SVC.  Overlying EKG leads 
are present.  Lungs are clear.  Cardiomediastinal silhouette is 
stable.  Bony structures are intact. 

==============
MICROBIOLOGY
==============
___ 6:35 pm URINE      LEFT NEPHROSTOMY TUBE. 
                            **FINAL REPORT ___
   URINE CULTURE (Final ___:    NO GROWTH. 

================
DISCHARGE LABS
================
___ 05:08AM BLOOD WBC-5.4 RBC-2.86* Hgb-8.2* Hct-26.5* 
MCV-93 MCH-28.7 MCHC-30.9* RDW-15.3 RDWSD-51.8* Plt ___
___ 05:08AM BLOOD Glucose-94 UreaN-29* Creat-0.9 Na-143 
K-4.0 Cl-106 HCO3-26 AnGap-15
___ 05:08AM BLOOD Calcium-8.8 Phos-5.2* Mg-2.1
 
Brief Hospital Course:
Ms. ___ is an ___ year old woman with history of provoked 
DVT/PE (on lovenox), bladder cancer s/p Robotic TAH-BSO, lap 
radical cystectomy with ileal loop diversion and anterior 
vaginectomy in ___ c/b abdominal fluid requiring 
placement of drainage catheters, and recent hydronephrosis 
requiring placement of bilateral PCN tubes on ___, presenting 
from rehab with hematuria and weakness.

On arrival, pt had evidence of frank hematuria in her urostomy 
bag and PCN tubes. Her hemoglobin was initially 8.1, which 
subsequently dropped to 7.0 Her lovenox was held, and she was 
transfused with 1 U PRBC with an appropriate hemoglobin bump to 
8.2. Hematuria was likely caused by recent instrumentation in 
the setting of anticoagulation. Her hematuria improved, as did 
her dizziness/weakness. ___ was consulted and recommending 
capping her PCN tubes. After discussion with the patient's 
hematologist, it was decided to stop her lovenox treatment given 
that her DVT/PE were provoked in the setting of her recovery 
from surgery, and that she had received almost 6 months of 
treatment.

Secondary Issues:

# Asymptomatic bacteruria: Patient with asymptomatic bacteruria 
in setting of recent procedural manipulation. She was afebrile 
and without leukocytosis, so treatment with antibiotics was 
deferred.

# Hyperlipidemia: continued atorvastatin 10 mg daily

# Hypothyroidism: continue levothyroxine 175 mcg daily

===================
TRANSITIONAL ISSUES
===================
Medication Changes: Lovenox stopped 
[ ] CT Abdomen/Pelvis showed partially imaged nodular opacity in 
the right middle lobe which can be further assessed on a 
nonemergent dedicated CT chest. 
[ ] Pt's PCN tubes were capped per ___ recommendation during her 
hospitalization; she was discharged with scheduled followup to 
decide on long term management
[ ] If pt develops hematuria and/or lightheadedness or other 
symptoms of anemia, a CBC should be rechecked to assess for 
bleeding
[ ] Hemoglobin/Hematocrit on discharge: 8.2/26.5

# CODE: presumed full
# CONTACT: ___ (MD) ___ (cell) 
___ (home) 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Atorvastatin 10 mg PO QPM 
2. Enoxaparin Sodium 70 mg SC Q12H 
Start: ___, First Dose: Next Routine Administration Time 
3. Levothyroxine Sodium 175 mcg PO DAILY 
4. Multivitamins 1 TAB PO DAILY 
5. Probiotic-Digestive Enzymes (L. acidophilus-dig ___ 5) 
___ mg oral daily 

 
Discharge Medications:
1.  Atorvastatin 10 mg PO QPM  
2.  Levothyroxine Sodium 175 mcg PO DAILY  
3.  Multivitamins 1 TAB PO DAILY  
4.  Probiotic-Digestive Enzymes (L. acidophilus-dig ___ 5) 
___ mg oral daily  

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Primary Diagnoses: Hematuria, anemia

Secondary Diagnoses: Bladder cancer, hydronephrosis, 
hypothyroidism, DVT/PE

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Ms. ___, 

It was a pleasure taking care of you at ___. 

WHY DID YOU COME TO THE HOSPITAL?
You noticed blood in your urine, and you were feeling 
weak/lightheaded.

WHAT HAPPENED WHILE YOU WERE HERE?
We did not give you your blood thinner medication (Lovenox), and 
we gave you a unit of blood. The blood in your urine cleared up. 


WHAT SHOULD YOU DO WHEN YOU LEAVE THE HOSPITAL?
Along with your oncologist Dr. ___ have decided that you 
no longer need to take any Lovenox. You should continue to 
follow up with your doctors, and take all of your medications as 
prescribed. Your followup appointments are listed below.

Again, it was a pleasure taking care of you!

Sincerely, 

Your ___ Team
 
Followup Instructions:
___